US07655680B2
N-methylmorpholine-N-oxide (16.5 g, 141 mmol) was added to a solution (200 ml) of 4-chloromethyl-2-(3,4-diethoxyphenyl)thiazole (13.99 g, 47 mmol) in acetonitrile, followed by heating under reflux for 1.5 hours. After cooling to room temperature, the solvent was distilled off under reduced pressure, and the residue was subjected to extraction with ethyl acetate. The organic layer was washed with a saturated salt solution, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/2). The solvent was distilled off under reduced pressure, to thereby obtain 11.2 g (yield: 86%) of 2-(3,4-diethoxyphenyl)thiazole-4-carboxaldehyde as a yellow solid.

reactant | N-methylmorpholine-N-oxide | 141 mmol, 16.5 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | 4-chloromethyl-2-(3,4-diethoxyphenyl)thiazole | 47 mmol, 200 ml, 13.99 g | ClCC=1N=C(SC1)C1=CC(=C(C=C1)OCC)OCC | C14H16ClNO2S
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-(3,4-diethoxyphenyl)thiazole-4-carboxaldehyde | 11.2 g, yield: 86% | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C=O | C14H15NO3S
